US04920129
To a suspension of 2-methyl-6-methoxycarbonylaminobenzyl alcohol (29.19 g) in methylene chloride (290 ml) was added dropwise thionyl chloride (11.46 ml) at room temperature and the resultant mixture was stirred for 2 hours. After the solvent was evaporated in vacuo, n-hexane was added to the residue to give precipitates. The precipitates were collected by filtration and dried to give 2-methyl-6-methoxycarbonylaminobenzyl chloride (28.26 g).

reactant | 2-methyl-6-methoxycarbonylaminobenzyl alcohol | 29.19 g | CC1=C(CO)C(=CC=C1)NC(=O)OC | C10H13NO3
reactant | thionyl chloride | 11.46 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 290 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-6-methoxycarbonylaminobenzyl chloride | 28.26 g | CC1=C(CCl)C(=CC=C1)NC(=O)OC | C10H12ClNO2
